US08304436B2
D4. Methyl 3-[3-(benzyloxy)-4-methoxyphenyl]-2,2-dimethyl-3-oxopropanoate
Prepared analogously as described for example D1 using methyl 2-methylproponate and 3-benzyloxy-4-methoxybenzoyl chloride as starting compounds.

reactant | methyl 2-methylproponate | CC(C(=O)OC)C | C5H10O2
reactant | 3-benzyloxy-4-methoxybenzoyl chloride | C(C1=CC=CC=C1)OC=1C=C(C(=O)Cl)C=CC1OC | C15H13ClO3
product | Methyl 3-[3-(benzyloxy)-4-methoxyphenyl]-2,2-dimethyl-3-oxopropanoate | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C(C(C(=O)OC)(C)C)=O | C20H22O5
